US04863904
A solution of 330 mg of 2-benzylidene-3-(1-naphthylmethylcarbamoyl)propionic acid, 260 mg of N,N'-disuccinimidylcarbonate and 1 ml of pyridine in 20 ml of dry acetonitrile was stirred for 3 hour at room temperature. The solution was added to a solution of 300 mg of L-histidine methyl ester dihydrochloride and 150 mg of N-methylmorpholine in 20 ml of dry N,N-dimethylformamide, and the mixture was stirred for 16 hours at 40° C. The reaction mixture was concentrated under reduced pressure, and a 5% aqueous sodium bicarbonate solution was added to the residue. The precipitates were collected by filtration to obtain 350 mg of N-[2-benzylidene-3-(1-naphthylmethylcarbamoyl)propionyl]-L-histidine methyl ester as a white powder.

reactant | 2-benzylidene-3-(1-naphthylmethylcarbamoyl)propionic acid | 330 mg | C(C1=CC=CC=C1)=C(C(=O)O)CC(NCC1=CC=CC2=CC=CC=C12)=O | C22H19NO3
reactant | N,N'-disuccinimidylcarbonate | 260 mg | C1CC(=O)N(C1=O)OC(=O)ON2C(=O)CCC2=O | C9H8N2O7
reactant | L-histidine methyl ester dihydrochloride | 300 mg | Cl.Cl.COC([C@@H](N)CC1=CNC=N1)=O
reactant | N-methylmorpholine | 150 mg | CN1CCOCC1 | C5H11NO
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | N-[2-benzylidene-3-(1-naphthylmethylcarbamoyl)propionyl]-L-histidine methyl ester | 350 mg | COC([C@@H](NC(C(CC(NCC1=CC=CC2=CC=CC=C12)=O)=CC1=CC=CC=C1)=O)CC1=CNC=N1)=O | C29H28N4O4
